US06384033B1
1) 6-Chloro-3-vinylpyridazine
Pd(PPh3)4 (0.42 g, 0.37 mmol) was added to a suspension of tributyl(vinyl)tin (7.67 g, 24.2 mmol) and 3,6-dichloropyridazine (3.57 g, 24.0 mmol) in toluene (30 ml), and stirred at 50° C. for 8 hours. The reaction mixture was added to aqueous ammonium fluoride (100 ml), and ethyl acetate (30 ml) was added thereto and stirred for 1 hour. The white precipitates were removed by filtration. The organic layer was separated from the filtrate and the aqueous layer was extracted three times with ethyl acetate. The organic layers were combined and dried over MgSO4. The solvent was evaporated and the residue was purified by silica gel chromatography (hexane/ethyl acetate=3/1) to give the title compound (1.03 g; 31%).

reactant | tributyl(vinyl)tin | 24.2 mmol, 7.67 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | 3,6-dichloropyridazine | 24.0 mmol, 3.57 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | ammonium fluoride | 100 ml | [F-].[NH4+]
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.37 mmol, 0.42 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Chloro-3-vinylpyridazine | 1.03 g, 31% | ClC1=CC=C(N=N1)C=C | C6H5ClN2
